US07465806B2
To [1,4]oxazepane hydrochloride (400 mg) in DCM (45 mL) was added DIEA (2.70 mL) followed by 4-chlorosulfonyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.05 g). The mixture was stirred for 1 h at RT after which water was added and the resulting two phases were separated. The organic phase was washed two times with saturated aqueous NaHCO3 solution, dried over MgSO4 and concentrated to give crude) 3,5-dimethyl-4-([1,4]oxazepane-4-sulfonyl)-1H-pyrrole-2-carboxylic acid ethyl ester (970 mg) which was used directly in the following step.

reactant | [1,4]oxazepane hydrochloride | 400 mg | Cl.O1CCNCCC1
reactant | DIEA | 2.70 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorosulfonyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.05 g | C(C)OC(=O)C=1NC(=C(C1C)S(=O)(=O)Cl)C | C9H12ClNO4S
reactant | water | O | H2O
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethyl-4-([1,4]oxazepane-4-sulfonyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 970 mg | C(C)OC(=O)C=1NC(=C(C1C)S(=O)(=O)N1CCOCCC1)C | C14H22N2O5S
